US09422467B2
Preparation of 2,2′-(ethane-1,2-diylbis(sulfanediyl))dianiline
A 4-necked, 1-L flask was fitted with a reflux condenser, nitrogen line, mechanical stirrer (PTFE bearing and paddle), thermocouple, pressure-equilibrated dropping funnel, and a mantle. The flask was charged with 300 mL of isopropyl alcohol followed by 42.0 g of potassium hydroxide. The mixture was stirred under nitrogen at ca. 300 rpm until the KOH was partially dissolved. 88.86 g of 2-aminothiophenol was then added over 1.25 r. This was accompanied by an exotherm and the formation of a suspension of the potassium salt. 99.71 g of 1,2-diiodoethane suspended in 200 mL isopropanol at 50° C. was then added over ca. 0.25 hr. The resultant suspension was heated at 80° C. for 8.9 h. The reaction mixture was filtered hot through Whatman GF/A paper. The filter cake was washed with 100 mL isopropanol. The weight of the filter cake was 95.25 g. The filtrate crystallized while cooling overnight to room temperature. The crystals were isolated by suction filtration through Whatman #1 paper. The yellow crystals were dried on a rotary evaporator (1 torr final vacuum, 90° C. water bath) to afford 57.32 g (58.5%) of a yellow solid.

reactant | potassium hydroxide | 42.0 g | [OH-].[K+]
reactant | 2-aminothiophenol | 88.86 g | NC1=C(C=CC=C1)S | C6H7NS
reactant | potassium | [K] | K
reactant | 1,2-diiodoethane | 99.71 g | ICCI | C2H4I2
solvent | isopropanol | 200 mL | C(C)(C)O | C3H8O
solvent | isopropyl alcohol | 300 mL | C(C)(C)O | C3H8O
product | 2,2′-(ethane-1,2-diylbis(sulfanediyl))dianiline | 57.32 g, 58.5% | C(CSC1=C(N)C=CC=C1)SC1=C(N)C=CC=C1 | C14H16N2S2
